US04695573
9-(3-Fluorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
In 100 ml of THF was dissolved 3.00 g of 3,4-dihydro-9-(3-fluorobenzylamino)acridin-1(2H)-one. The mechanically stirred solution was cooled in ice under nitrogen and 4.68 ml of 1M lithium aluminum hydride in THF was added dropwise over 15 minutes. After 0.5 hour, analysis by TLC indicated the reaction was complete, so it was neutralized with 1 ml of saturated ammonium chloride solution and the resulting salts were filtered. The filtrate was evaporated to an oil which crystallized on trituration with pentane. The solid was filtered and recrystallized from 1:1 dichloromethane/pentane to yield 2.50 g of solid, mp 128° C.

reactant | 3,4-dihydro-9-(3-fluorobenzylamino)acridin-1(2H)-one | 3.00 g | FC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC1 | C20H17FN2O
reactant | lithium aluminum hydride | 1M, 4.68 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9-(3-Fluorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | 2.50 g | FC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC1 | C20H19FN2O
